Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Fever, flank pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old male s/p lithotripsy and stent removal on ___
sent from urgent care with persistent pain and fever since
yesterday. Patient notes extreme fatigue and shaking chills. He
states his kidney stones were right sided, but now has some left
sided abdominal discomfort and notes aching in his right flank.
Patient had been taking pyridium until two days ago. When he
stopped taking the medication for 24 hours, the patient 
developed
severe dysuria. He denies any chest pain or shortness of breath.
Denies vomiting or diarrhea. Patient states family members have
noted he "looks yellow". Patient has taken Tylenol ___ mg three
times a day for the last few days. Patient has previously grown
E. Coli in his blood and urine. 

In the ED, initial VS were:  99.6 112 125/75 14 99% RA Tmax 
101.4
Labs showed: UA large leuks+, WBC >182, lactate 1.6, WBC 18,
Creatinine 1.3  
Imaging showed: Status post interval right ureteroscopy and
ureteral stone removal, with new short segment circumferential
right mid ureteral wall thickening, in the region of prior
obstructing ureteral calculus, likely 
inflammatory/postprocedural
in nature
New striated appearance to the right kidney with focal areas of
hypoattenuation in the posterior upper and lower poles,
consistent with pyelonephritis. No renal abscess.

Patient received: IVF 2L, IV morphine 4 mg, IV ceftriaxone, PO
Tylenol 
Urology was consulted , with foley placed for PVR 380, with plan
for broad spectrum antibiotics 

Transfer VS were: 98.7 101 101/68 16 97% RA 
 
On arrival to the floor, patient reports feeling better after
receiving pain medications.  He reports his symptoms started
initially at the end of ___ with back and abdominal pain,
was found to have kidney stones, with initial stent placed. 
After that he was scheduled for a right-sided renal lithotripsy
and stent removal on ___ which he received.  He notes 
even
a day after surgery having hematuria, feeling weak and tired 
with
poor appetite.  He also reports dry mouth which was attributed 
to
the oxybutynin he was taking.  He is no longer taking 
oxybutynin.
He also reports some weight loss given that he has not been
feeling well, and then yesterday morning he started having 
fevers
and chills and thus was referred from the urgent care.  He 
denies
any other prior medical history.  He currently denies any chest
pain any shortness of breath, any back pain. 
 
REVIEW OF SYSTEMS:  
10 point ROS reviewed and negative except as per HPI  
 
Past Medical History:
-Urolithiasis, previously ___ years ago
-Acne
-Anxiety
-Hyperlipidemia
 
Social History:
___
Family History:
No family history of renal disease or stones
 
Physical Exam:
======================
ADMISSION PHYSICAL EXAM
======================
VS: Temperature 98.7, heart rate 101, blood pressure 101/68, 
respiratory 16, 97% on room air
GENERAL: NAD  
HEENT: PERRL, EOMI, MMM  
NECK: supple, no LAD
HEART: RRR, S1/S2, no murmurs
LUNGS: CTAB, no wheezes, rales, breathing comfortably 
BACK: No CVA tenderness
ABDOMEN: nondistended, nontender in all quadrants, no 
rebound/guarding, Foley in place
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused

======================
DISCHARGE PHYSICAL EXAM
======================
VS: 98.7 (TMax 100.7), 123 / 77, 93, 18, 97% RA  
GENERAL: Middle-aged gentleman in NAD  
HEENT: Anicteric sclearae, MMM  
NECK: supple
HEART: RRR, S1/S2, no murmurs
LUNGS: CTAB, no wheezes, rales, breathing comfortably 
BACK: No CVA tenderness
ABDOMEN: nondistended, nontender in all quadrants, no 
rebound/guarding
SKIN: warm and well perfused
 
Pertinent Results:
==============
ADMISSION LABS
==============
___ 06:15PM BLOOD WBC-18.8*# RBC-4.86 Hgb-13.2*# Hct-40.6 
MCV-84 MCH-27.2 MCHC-32.5 RDW-12.3 RDWSD-37.2 Plt ___
___ 06:15PM BLOOD Neuts-87* Bands-0 Lymphs-8* Monos-5 Eos-0 
Baso-0 ___ Myelos-0 AbsNeut-16.36* AbsLymp-1.50 
AbsMono-0.94* AbsEos-0.00* AbsBaso-0.00*
___ 06:15PM BLOOD ___ PTT-26.6 ___
___ 06:15PM BLOOD Plt Smr-NORMAL Plt ___
___ 06:15PM BLOOD Glucose-102* UreaN-14 Creat-1.3* Na-138 
K-4.1 Cl-97 HCO3-25 AnGap-16
___ 06:15PM BLOOD ALT-51* AST-31 AlkPhos-94 TotBili-1.0
___ 06:15PM BLOOD Albumin-4.5
___ 06:37PM BLOOD Lactate-1.6

==============
IMAGING/STUDIES
==============
___ CXR IMPRESSION: No acute cardiopulmonary abnormality.

___ CT W/ & W/O CONTRAST IMPRESSION:
1. Status post interval right ureteroscopy and ureteral stone 
removal, with new short segment circumferential right mid 
ureteral wall thickening, in the region of prior obstructing 
ureteral calculus, likely inflammatory/postprocedural in nature.
2. New striated appearance to the right kidney with focal areas 
of hypoattenuation in the posterior upper and lower poles, 
consistent with pyelonephritis.  No renal abscess.
3. No hydroureteronephrosis.  One residual punctate 
nonobstructing calculus in the right kidney, and unchanged 
punctate nonobstructing calculi in the left kidney.  2 new 
punctate stones in the bladder measuring up to 3 mm.
4. Unchanged right pericardial cyst.

==============
DISCHARGE LABS
==============
___ 05:42AM BLOOD WBC-8.3 RBC-4.47* Hgb-12.3* Hct-38.7* 
MCV-87 MCH-27.5 MCHC-31.8* RDW-12.2 RDWSD-38.8 Plt ___
___ 05:42AM BLOOD Plt ___
___ 05:42AM BLOOD Glucose-89 UreaN-15 Creat-1.2 Na-143 
K-4.3 Cl-104 HCO3-26 AnGap-13
___ 05:42AM BLOOD Calcium-9.0 Phos-3.8 Mg-2.4
 
Brief Hospital Course:
==================
PATIENT SUMMARY
==================
___ with recent ureteroscopy and stone removal presents with
signs and symptoms consistent with pyelonephritis, now 
clinically
improved.

==================
ACTIVE ISSUES
==================
#Pyelonephritis: s/p recent right uteroscopy and stone removal 
(___), who presented with right sided abdominal pain, 
fevers, and CT demonstrating right perinephric stranding 
consistent with pyelonephritis. Of note, he previously had 
pyelonephritis in the setting of nephrolithiasis with E. Coli 
that was resistant to Ampicillin and indeterminant against 
Ampicillin-sulbactam. Was initially started on IV Ceftriaxone, 
and was transitioned to PO Ciprofloxacin 500mg PO BID on 
___. He continued to clinically improve, was afebrile, and 
his leukocytosis normalized on ___, and as such he was 
discharged with PO Ciprofloxacin 500mg PO BID x14 days (to be 
completed on ___ and was continued on home Tamulosin. His 
Urine culture returned prior to discharge demonstrating E. Coli 
that was resistant only to Ampicillin and indeterminant against 
Ampicillin-Sulbactam. His Blood cultures were still pending at 
discharge. He is scheduled to follow up with Dr. ___ 
(___) on ___ on ___. 

====================
TRANSITIONAL ISSUES
====================
[ ]Continue Ciprofloxacin x14 days (to end on ___
[ ]Follow up with Dr. ___ on ___
[ ]Follow up with Dr. ___ on ___

NEW MEDICATIONS: Ciprofloxacin 500mg PO BID

#CODE: Full (presumed) 
#CONTACT: ___ (wife) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. sildenafil 100 mg oral DAILY:PRN 
2. Tamsulosin 0.4 mg PO QHS 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl [Cipro] 500 mg 1 tablet(s) by mouth twice 
per day Disp #*23 Tablet Refills:*0 
2.  Sildenafil 100 mg oral DAILY:PRN erectile dysfunction  
3.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
Pyelonephritis

SECONDARY: 
Nephrolithiasis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,  
 It was a pleasure to care for you at the ___ 
___. 
 
 Why did you come to the hospital?  
 - You were having abdominal/groin pain and fevers, and were 
found to have an infection of your kidney
 What did you receive in the hospital?  
 - We started you on IV antibiotics, and eventually switched to 
pills of Ciprofloxacin that you tolerated well

 What should you do once you leave the hospital?  
 - Continue taking Ciprofloxacin twice per day until ___ 
(for a total antibiotic course of 14 days)
 - Follow up with your outpatient Urologist and PCP, as 
scheduled
 - Continue taking the rest of your medications as prescribed

 We wish you the ___!  
 Your ___ Care Team
 
Followup Instructions:
___